### PR TITLE
[Merged by Bors] - style(Mathlib/Algebra/ContinuedFractions/*): shorten names of declarations related to continued fractions

### PR DESCRIPTION
**Pull request by Komyyy**
I'm constructing the homeomorphism between irrationals and Baire space using continued fractions, and found that names of declarations related to continued fractions are long.
This PR shortens them e.g.:
`GeneralizedContinuedFraction` -> `GenContFract`
`SimpleContinuedFraction` -> `SimpContFract`
`ContinuedFraction` -> `ContFract`
`GeneralizedContinuedFraction.denominators` -> `GenContFract.dens`
etc.

---

This PR consists [Continued fractions makes an isomorphism between irrationals and baire space
](https://github.com/users/Komyyy/projects/3/) project

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by bryangingechen** [comment]
When this material was originally added, the names were actually acronyms like the ones you're introducing here, but @sgouezel recommended the longer names in use now: https://github.com/leanprover-community/mathlib/pull/1433#issuecomment-530373969

Maybe as @semorrison suggested there you can use local abbreviations or notations? I personally am quite sympathetic to having shorter names though; to be honest the library files here are much easier for me to read with `GCF`, `SCF` etc. Would introducing abbreviations / notations next to the definitions (and then using them everywhere instead of the long "official" names) be a reasonable thing to do?

File: Mathlib/NumberTheory/DiophantineApproximation.lean [hunk 1]
```diff
@@ -50,7 +50,7 @@ Both statements are combined to give an equivalence,
 There are two versions of Legendre's Theorem. One, `Real.exists_rat_eq_convergent`, uses
 `Real.convergent`, a simple recursive definition of the convergents that is also defined
 in this file, whereas the other, `Real.exists_continued_fraction_convergent_eq_rat`, uses
```
Comment (bryangingechen) [inline Mathlib/NumberTheory/DiophantineApproximation.lean:52]: For consistency with the `convergents` -> `convs` renaming in this PR, I'm tempted to suggest renaming `convergent` to `conv`. Thinking about it a bit more though, `conv` might be an overloaded abbreviation (e.g. we have `conv` mode). I guess for now we can leave these alone, but cc: @MichaelStollBayreuth in case he has any opinions.

Ah, I just noticed that `continued_fraction_conv_eq_convergent` and `exists_continued_fraction_convergent_eq_rat` don't seem to follow our [naming conventions](https://leanprover-community.github.io/contribute/naming.html) (if I'm not confused they should have contained `generalizedContinuedFraction` somewhere in the name). Maybe this should just be mentioned in a TODO and left for a follow-up PR?

**Review by bryangingechen — COMMENTED** [review]
I'd like to hear some additional opinions about what to do with the names in `NumberTheory.DiophantineApproximation`. (Though for now maybe just a TODO saying that the names aren't consistent is OK.) Other than that just some minor nitpicks.

File: Mathlib/NumberTheory/DiophantineApproximation.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/NumberTheory/DiophantineApproximation.lean]: We shouldn't remain tech debts as possible.
I renamed `Real.convergent` to `Real.convs` & related theorems.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DiophantineApproximation.lean]: I'd actually prefer to keep `Real.convergent` as the name, as its meaning should be clear, whereas `Real.convs` is less so. (In the general continued fractions context, the (fully qualified) name includes a reference to continued fractions, so this is less of a concern, but here it does not.) Also, length of names is not really an issue in `Mathlib.NumberTheory.DiophantineApproximation` except for the few names referring to general continued fractions stuff (which obviously need to be consistent with the changes there). (The violation of the naming convention must be due to the port, I think.)

Comment (Komyyy) [reply Mathlib/NumberTheory/DiophantineApproximation.lean]: @MichaelStollBayreuth I have reverted the change about `Real.convs`, sorry.

File: Mathlib/NumberTheory/DiophantineApproximation.lean [hunk 2]
```diff
@@ -369,22 +368,20 @@ theorem convergent_of_int {ξ : ℤ} (n : ℕ) : convergent ξ n = ξ := by
...
 
-open GeneralizedContinuedFraction
+open GenContFract
 
-/-- The `n`th convergent of the `GeneralizedContinuedFraction.of ξ`
-agrees with `ξ.convergent n`. -/
-theorem continued_fraction_convergent_eq_convergent (ξ : ℝ) (n : ℕ) :
-    (GeneralizedContinuedFraction.of ξ).convergents n = ξ.convergent n := by
+/-- The `n`th convergent of the `GenContFract.of ξ` agrees with `ξ.convergent n`. -/
+theorem genContFract_conv_eq_convergent (ξ : ℝ) (n : ℕ) :
```
Comment (bryangingechen) [inline Mathlib/NumberTheory/DiophantineApproximation.lean:378]: Shouldn't this be
```suggestion
theorem genContFract_convs_eq_convergent (ξ : ℝ) (n : ℕ) :
```
to match the `convs`? Same comment for `exists_genContFract_conv_eq_rat`.

Comment (bryangingechen) [reply Mathlib/NumberTheory/DiophantineApproximation.lean:378]: I think according to the [naming convention doc](https://leanprover-community.github.io/contribute/naming.html#identifiers-and-theorem-names) (see the end of "Identifiers and theorem names"), if we include the namespace `genContFract`, it should be combined with the `convs` in lowerCamelCase. (I've edited the suggestion above accordingly.)

There's a case to be made that we could also leave out `genContFract` since `convs` is strictly speaking unambiguous, so I guess `convs_eq_convergent` might be OK as well, although maybe a bit harder to understand.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DiophantineApproximation.lean:378]: The doc-string mentions `GenContFrac`, so just `convs` should be OK.

Comment (Komyyy) [reply Mathlib/NumberTheory/DiophantineApproximation.lean]: I renamed.

File: Mathlib/NumberTheory/DiophantineApproximation.lean [hunk 3]
```diff
@@ -369,22 +368,20 @@ theorem convergent_of_int {ξ : ℤ} (n : ℕ) : convergent ξ n = ξ := by
...
 
-open GeneralizedContinuedFraction
+open GenContFract
 
-/-- The `n`th convergent of the `GeneralizedContinuedFraction.of ξ`
-agrees with `ξ.convergent n`. -/
-theorem continued_fraction_convergent_eq_convergent (ξ : ℝ) (n : ℕ) :
-    (GeneralizedContinuedFraction.of ξ).convergents n = ξ.convergent n := by
+/-- The `n`th convergent of the `GenContFract.of ξ` agrees with `ξ.convergent n`. -/
+theorem genContFract_convs_eq_convergent (ξ : ℝ) (n : ℕ) :
```
Comment (bryangingechen) [inline Mathlib/NumberTheory/DiophantineApproximation.lean:378]: Sorry, my earlier suggestion here may have been unclear since I edited it after I submitted it. If we keep the `genContFract`, then this should be 
```suggestion
theorem genContFractConvs_eq_convergent (ξ : ℝ) (n : ℕ) :
```
per the naming convention doc I mentioned in a later comment.

Alternatively, as Michael Stoll suggested, this shorter version could also work:
```suggestion
theorem convs_eq_convergent (ξ : ℝ) (n : ℕ) :
```

(And similarly for `exists_genContFract_convs_eq_rat` below.)

Anyways, once you pick one of these, feel free to merge!
bors d+

File: Mathlib/NumberTheory/DiophantineApproximation.lean [hunk 4]
```diff
@@ -597,12 +594,11 @@ theorem exists_rat_eq_convergent {q : ℚ} (h : |ξ - q| < 1 / (2 * (q.den : ℝ
 /-- The main result, *Legendre's Theorem* on rational approximation:
 if `ξ` is a real number and `q` is a rational number such that `|ξ - q| < 1/(2*q.den^2)`,
 then `q` is a convergent of the continued fraction expansion of `ξ`.
-This is the version using `generalized_contined_fraction.convergents`. -/
-theorem exists_continued_fraction_convergent_eq_rat {q : ℚ}
-    (h : |ξ - q| < 1 / (2 * (q.den : ℝ) ^ 2)) :
-    ∃ n, (GeneralizedContinuedFraction.of ξ).convergents n = q := by
+This is the version using `GenContFract.convs`. -/
+theorem exists_genContFract_convs_eq_rat {q : ℚ}
```
Comment (bryangingechen) [inline Mathlib/NumberTheory/DiophantineApproximation.lean:598]: Ah, sorry. Maybe I should have been more explicit in my final comment. This theorem also should have been renamed to be consistent with `convs_eq_convergent`, so `exists_convs_eq_rat`.

Comment (bryangingechen) [reply Mathlib/NumberTheory/DiophantineApproximation.lean:598]: (Resolved in #13555)
